US07666871B2
2-{5-Methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-oxazol-4-yl}-ethanol
To a stirring solution of 2-(4-bromophenyl)-5-methyl-oxazoleethanol (CAS# 328918-84-9) (1.0 mmol), potassium acetate (1.5 mmol), and bis(pinacolato)diboron (1.1 mmol) in dioxane (0.15 M), add [1,1 bis(diphenylphosphino)ferrocene]di-chloropalladium(II) complex with CH2Cl2 (1:1) (0.03 mmol) and heat to reflux for 1.5 hours. After this time, cool the reaction to room temperature and concentrate in vacuo. Wash the crude mixture with water while extracting with dichloromethane. Dry the organics with sodium sulfate, filter and concentrate in vacuo. Purify on an Isco CombiFlash® chromatography system eluting with ethyl acetate and hexane. MS (m/e) 330.2 (M+1)

reactant | 2-(4-bromophenyl)-5-methyl-oxazoleethanol | 1.0 mmol | BrC1=CC=C(C=C1)C1(OC(=CN1)C)CCO | C12H14BrNO2
reactant | potassium acetate | 1.5 mmol | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.1 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CH2Cl2 | 0.03 mmol | C(Cl)Cl | CH2Cl2
solvent | dioxane | 0.15 M | O1CCOCC1 | C4H8O2
product | 2-{5-Methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-oxazol-4-yl}-ethanol | CC1=C(N=C(O1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CCO | C18H24BNO4
